US06235731B1
5) Synthesis of 1-(trans-4-aminomethyl-1-cyclohexylmethyl)-4-phenylpiperidine dihydrochloride
To a solution of 1.02 g (2.64 mM) of l-[trans-4-[N-(tert-butoxycarbonyl)aminomethyl]-1-cyclohexylmethyl]-4-phenylpiperidine in ethanol (10 ml) was added 10 ml (120 mM) of 12N-hydrochloric acid at room temperature and the mixture was stirred for one hour. This reaction mixture was concentrated under reduced pressure (crystals separated out) and diethyl ether was added to the residue. The resulting crystal crop was harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound as light-purple crystals.

reactant | l-[trans-4-[N-(tert-butoxycarbonyl)aminomethyl]-1-cyclohexylmethyl]-4-phenylpiperidine | 2.64 mM, 1.02 g | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)CN1CCC(CC1)C1=CC=CC=C1 | C24H38N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(trans-4-aminomethyl-1-cyclohexylmethyl)-4-phenylpiperidine dihydrochloride | Cl.Cl.NC[C@@H]1CC[C@H](CC1)CN1CCC(CC1)C1=CC=CC=C1 | InChI=1S/C19H30N2.2ClH/c20-14-16-6-8-17(9-7-16)15-21-12-10-19(11-13-21)18-4-2-1-3-5-18;;/h1-5,16-17,19H,6-15,20H2;2*1H/t16-,17-;;
